Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
A large non-bleeding ulcer and a non-bleeding visible vessel 
were noted in the prior EMR site in the cecum.The polypectomy 
site appeared edematous and nodular. The presence of residual 
polyp could not be ruled out. BI-CAP Electrocautery was applied 
for hemostasis successfully.  
 
Impression: •No evidence of active bleeding on this study.  
•A large non-bleeding ulcer and a non-bleeding visible vessel 
were noted in the prior EMR site in the cecum.
•The polypectomy site appeared edematous and nodular. 
•The presence of residual polyp could not be ruled out. 
•BI-CAP Electrocautery was applied for hemostasis successfully. 
•Otherwise normal colonoscopy to cecum
 

Recommendations: •Clear liquids today. 
•Continue to monitor CBC. 
•If no evidence of bleeding, can be discharged tomorrow. 
•Repeat colonoscopy in 3 months as per previous report.
•If any fever, worsening abdominal pain, or post procedure 
symptoms, please call the advanced endoscopy fellow on call 
___/ pager ___.
 

 
History of Present Illness:
___ with UC well controlled on ___ presenting with 5 day 
history of BRBPR in setting of colonoscopy with endoscopic 
mucosal resection of adenoma on ___. Pt reports that, in the 
two days followed his colonoscopy, ___ and ___, felt fine, no 
BM. First BM ___ was loose,some brown stool but predominantly 
bright red blood without clot. Subsequently felt fine. On ___ 
pm, had a formed BM, but still "looked red," which recurred on 
___. Had regularly scheduled appt with Dr. ___ on ___ am, 
at which time he was directed to ED. Denies lightheadedness, CP, 
SOB. Describes some abdominal discomfort, not pain, bloating 
most pronounced after eating. He has been eating normally. No 
pain with defecation. Abdominal discomfort seems to improve with 
defecation. Last BM was am of admission, still with blood mixed 
in.

In the ___ ED:
VS 97.5, 65, 131/81, 16, 100% RA
Gross red blood per rectum
Hct noted to have declined 41->34
INR 1.0
Plt 240

Admitted for colonoscopy in am

On arrival to the floor, denies pain, LHedness, chest pain. Full 
ROS otherwise negative.
 
Past Medical History:
Ulcerative colitis - No recurrence for many years, diagnosed in 
1990s. Maintained on mesalamine. 
Hx of recurrent pancreatitis - immediately preceding diagnosis 
of UC, no recurrence since improvement in UC as above
 
Social History:
___
Family History:
Significant for a father who died of coronary
artery disease (heavy smoker).  His mother died
of surgical complications of gallstone disease.  He has seven
siblings.  One has diabetes. One died from colon cancer at age 
___, in ___ (in ___. He is married and has no children. No 
other malignancy in the family. 
 
Physical Exam:
VS: 98.3, 142/82, 68, 20, 100% RA
Gen: Nontoxic appearing, sitting up on edge of bed, pleasant, 
interactive, in NAD
HEENT: PERRL, EOMI, clear oropharynx, anicteric sclera, no 
conjunctival pallor
Neck: supple, no cervical or supraclavicular adenopathy
CV: RRR, no m/r/g
Lungs: CTAB, no wheeze or rhonchi
Abd: soft, NT, ND, no rebound or guarding, +BS, no hepatomegaly
GU: No foley
Ext: WWP, no clubbing, cyanosis or edema
Neuro: Grossly intact
Skin: No rash or lesions appreciated

discharge

128/78 68
well appearing 
good color
soft abdomen
not confused,
attentive and pleasant
 
Pertinent Results:
___ 03:49PM   ___ PTT-31.7 ___
___ 02:45PM   GLUCOSE-88 UREA N-16 CREAT-0.8 SODIUM-141 
POTASSIUM-4.3 CHLORIDE-103 TOTAL CO2-27 ANION GAP-15
___ 02:45PM   estGFR-Using this
___ 02:45PM   WBC-7.7# RBC-3.71* HGB-11.4* HCT-34.7* MCV-94 
MCH-30.7 MCHC-32.9 RDW-11.9 RDWSD-40.2
___ 02:45PM   NEUTS-63.5 ___ MONOS-6.0 EOS-1.9 
BASOS-0.8 IM ___ AbsNeut-4.90# AbsLymp-2.12 AbsMono-0.46 
AbsEos-0.15 AbsBaso-0.06
___ 02:45PM   PLT COUNT-240

Last H/H ___ - 13.2/41.8

Colonoscopy ___:
Lesions A 35mm polyp was noted in the cecum just behind the 
ileocecal valve. Complete visualization was difficult as the 
polyp was buried behind the valve. The polyp was raised by 
submucosal injection with saline and methylene blue to create a 
saline pillow which helped better visualize the polyp. An 
endoscopic mucosal resection (EMR) was then performed and the 
polyp was completely removed in piecemeal fashion using a hot 
snare. The borders of the polypectomy site were then cauterized 
using argon plasma coagulation (APC). 5cc epinephrine was then 
injected around the polypectomy site. No bleeding was noted at 
the end of the procedure. The polyp fragments were removed via 
___ net.  

Path report - adenoma
___ 06:30AM BLOOD WBC-6.6 RBC-3.84* Hgb-11.7* Hct-35.9* 
MCV-94 MCH-30.5 MCHC-32.6 RDW-11.9 RDWSD-40.2 Plt ___
___ 06:30AM BLOOD Glucose-84 UreaN-16 Creat-0.9 Na-137 
K-4.3 Cl-103 HCO3-26 AnGap-12

Colonoscopy ___
A large non-bleeding ulcer and a non-bleeding visible vessel 
were noted in the prior EMR site in the cecum.The polypectomy 
site appeared edematous and nodular. The presence of residual 
polyp could not be ruled out. BI-CAP Electrocautery was applied 
for hemostasis successfully.  
 
Impression: •No evidence of active bleeding on this study.  
•A large non-bleeding ulcer and a non-bleeding visible vessel 
were noted in the prior EMR site in the cecum.
•The polypectomy site appeared edematous and nodular. 
•The presence of residual polyp could not be ruled out. 
•BI-CAP Electrocautery was applied for hemostasis successfully. 
•Otherwise normal colonoscopy to cecum
 

Recommendations: •Clear liquids today. 
•Continue to monitor CBC. 
•If no evidence of bleeding, can be discharged tomorrow. 
•Repeat colonoscopy in 3 months as per previous report.
•If any fever, worsening abdominal pain, or post procedure 
symptoms, please call the advanced endoscopy fellow on call 
___/ pager ___.
 

 
Brief Hospital Course:
___ with UC well controlled on Lialda presenting with 5 day 
history of BRBPR in setting of colonoscopy with endoscopic 
mucosal resection of adenoma on ___.

# BRBPR: In setting of recent EMR, likely procedure-related.  
Hgb stable for >36hrs and slightly decreased from earlier in the 
year. He underwent colonoscopy on ___ that showed 

A large non-bleeding ulcer and a non-bleeding visible vessel 
were noted in the prior EMR site in the cecum.The polypectomy 
site appeared edematous and nodular. The presence of residual 
polyp could not be ruled out. BI-CAP Electrocautery was applied 
for hemostasis successfully.  
 
He did well and tolerated a diet after the procedure and had 
stable vital signs.  

Given multiple adenoma, h/o IBD putting him at higher risk of 
colorectal cancer and location of distal adenoma in cecum, he 
will need repeat colonoscopy in 3 months.

Aspirin stopped.

# UC: As above, well-controlled on ___.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mesalamine ___ 4800 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Mesalamine ___ 4800 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
rectal bleeding
colon adenoma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
you were hospitalized with rectal bleeding after you had a 
colonoscopy with removal of a large polyp during a colonoscopy 
on ___ (endomucosal resection) 

you underwent repeat colonoscopy which showed
 large non-bleeding ulcer and a non-bleeding visible vessel were 
noted in the prior EMR site in the cecum.The polypectomy site 
appeared edematous and nodular. The presence of residual polyp 
could not be ruled out. BI-CAP Electrocautery was applied for 
hemostasis successfully. 

we stopped your aspirin

please have your blood levels (CBC) checked next week
 
Followup Instructions:
___